US06603005B2
10.2 g of phosphorus pentoxide were added cautiously, with mechanical stirring, to a mixture of 21.1 g of diethyl 2-[(3,4-dimethoxyphenylamino)methylene]malonate in 42 cm3 of nitrobenzene. The reaction mixture was maintained at a temperature in the region of 150° C. for 4 hours. After cooling to about 20° C. and stirring for 18 hours at this same temperature, 14 cm3 of water were added dropwise and the reaction mixture was then heated to about 110° C. for 7 hours. After cooling to a temperature in the region of 20° C., 42 cm3 of ethyl acetate were added. The suspension was stirred under these conditions for 18 hours, the phases were then separated by settling, the organic phase was filtered and the filter cake was washed with 3 times 40 cm3 of ethyl acetate, 40 cm3 of ethanol and 40 cm3 of water. 9.25 g of 4-hydroxy-6,7-dimethoxyquinoline-3-carboxylic acid were obtained in the form of a cream-colored solid.

reactant | phosphorus pentoxide | 10.2 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | diethyl 2-[(3,4-dimethoxyphenylamino)methylene]malonate | 21.1 g | COC=1C=C(C=CC1OC)NC=C(C(=O)OCC)C(=O)OCC | C16H21NO6
reactant | water | 14 cm3 | O | H2O
reactant | ethyl acetate | 42 cm3 | C(C)(=O)OCC | C4H8O2
solvent | nitrobenzene | 42 cm3 | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4-hydroxy-6,7-dimethoxyquinoline-3-carboxylic acid | 9.25 g | OC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)O | C12H11NO5
